US05574178
4-Acetoxy-3,5-di-tert-butyl-2-(2-propenyl)anisole (19 g) was dissolved in a 1:1 mixture (200 ml) of tetrahydrofuran and water. After adding osmium tetroxide (0.12 g) and sodium periodate (26.9 g), the mixture was stirred at room temperature for 48 h. After the end of the reaction, a saturated aqueous solution of sodium thiosulfate was added and the mixture was subjected to extraction with ethyl acetate and the organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (25% ethyl acetate in n-hexane) to afford 4-acetoxy-3,5-di-tert-butyl-2-formylmethylanisole [16 g (yield, 83% )].

reactant | 4-Acetoxy-3,5-di-tert-butyl-2-(2-propenyl)anisole | 19 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)OC)CC=C)C(C)(C)C | C20H30O3
reactant | sodium periodate | 26.9 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
catalyst | osmium tetroxide | 0.12 g | [Os](=O)(=O)(=O)=O
product | 4-acetoxy-3,5-di-tert-butyl-2-formylmethylanisole | 16 g, 83% | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)OC)CC=O)C(C)(C)C | C19H28O4
